US05622976
A mixture of N-[2-[1-(4-fluorobenzyl)piperidin-4-yl]ethyl]phthalimide (12.7 g) and hydrazine hydrate (2.02 ml) in ethanol (150 ml) was refluxed for 2 hours. After cooling to room temperature, the mixture was evaporated in vacuo. The residue was chromatographed on alumina eluting with chloroform and the fractions containing the object product were collected and evaporated to give 2-[1-(4-fluorobenzyl)piperidin-4-yl]ethylamine (4.5 g) as an oil.

reactant | N-[2-[1-(4-fluorobenzyl)piperidin-4-yl]ethyl]phthalimide | 12.7 g | FC1=CC=C(CN2CCC(CC2)CCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C22H23FN2O2
reactant | hydrazine hydrate | 2.02 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-[1-(4-fluorobenzyl)piperidin-4-yl]ethylamine | 4.5 g | FC1=CC=C(CN2CCC(CC2)CCN)C=C1 | C14H21FN2
